US06461578B1
Quaternization (synthesis of N-methyl-N-[(1-phenylcyclopentyl)methyl]piperidinium iodide)
To a mechanically stirred solution of [(1-phenylcyclopentyl)methyl]piperidine (115 gm; 0.47 mole) in 1000 ml methanol (ACS reagent), methyl iodide (100 gm; 0.7 mole) were added. The resulting mixture was stirred for 48 hrs. Then an additional 35 gm (0.5 mole equivalent) of methyl iodide was added and the reaction was heated for 1 hr. The resulting solution was concentrated under reduced pressure on a rotary evaporator to give 175 gm of a tan solid material. The obtained solid was re-crystallized by dissolving in hot isopropyl alcohol and allowed to re-crystallize overnight. Re-crystallization afforded 171 gm of the product (NMR analysis) as shinny white needles.

reactant | [(1-phenylcyclopentyl)methyl]piperidine | 0.47 mole, 115 gm | C1(=CC=CC=C1)C1(CCCC1)CN1CCCCC1 | C17H25N
reactant | methyl iodide | 0.7 mole, 100 gm | CI | CH3I
reactant | methyl iodide | 0.5 mole, 35 gm | CI | CH3I
solvent | methanol | 1000 ml | CO | CH4O
product | N-methyl-N-[(1-phenylcyclopentyl)methyl]piperidinium iodide | 175 gm | [I-].C[N+]1(CCCCC1)CC1(CCCC1)C1=CC=CC=C1 | InChI=1S/C18H28N.HI/c1-19(14-8-3-9-15-19)16-18(12-6-7-13-18)17-10-4-2-5-11-17;/h2,4-5,10-11H,3,6-9,12-16H2,1H3;1H/q+1;/p-1
